US07288544B2
1) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3,3-diphenylpropyl) ester:
747 mg (2.52 mmol) of acetoacetic acid 3,3-diphenylpropyl ester, 389 mg (2.52 mmol) of 3-aminocrotonate 2-cyanoethyl ester and 0.285 ml (2.52 mmol) of 3-chlorobenzaldehyde were heated and stirred at 80° C. for two nights in 20 ml of 2-propanol. After 2-propanol was evaporated under reduced pressure, the residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | acetoacetic acid 3,3-diphenylpropyl ester | 2.52 mmol, 747 mg | C1(=CC=CC=C1)C(CCOC(CC(=O)C)=O)C1=CC=CC=C1 | C19H20O3
reactant | 3-aminocrotonate 2-cyanoethyl ester | 2.52 mmol, 389 mg | C(#N)CCOC(\C=C(\C)/N)=O | C7H10N2O2
reactant | 3-chlorobenzaldehyde | 2.52 mmol, 0.285 ml | ClC=1C=C(C=O)C=CC1 | C7H5ClO
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3,3-diphenylpropyl) ester | C1(=CC=CC=C1)C(CCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCC#N)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C33H31ClN2O4
